US06800629B2
In 30 mL of dimethylformamide was dissolved 3.0 g of 3,6-difluoro-2-pyrazinecarbonitrile. Then, 2.6 g of hydroquinone, followed by 6.5 g of potassium carbonate, was added at an ice-cooled temperature, and the mixture thus obtained was stirred at room temperature for 15 minutes. A mixture of 30 mL of ethyl acetate and 60 ml of water was added to the reaction mixture, pH was adjusted to 5 with 6 mol/L hydrochloric acid, and the organic layer was separated. The organic layer thus obtained was washed successively with water and saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by silica gel column chromatography [eluent: n-hexane:ethyl acetate=3:1] to obtain 0.75 g of 6-fluoro-3-(4-hydroxyphenoxy)-2-pyrazinecarbonitrile as a yellow-colored solid product.

reactant | 3,6-difluoro-2-pyrazinecarbonitrile | 3.0 g | FC=1C(=NC(=CN1)F)C#N | C5HF2N3
reactant | hydroquinone | 2.6 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-fluoro-3-(4-hydroxyphenoxy)-2-pyrazinecarbonitrile | 0.75 g | FC1=CN=C(C(=N1)C#N)OC1=CC=C(C=C1)O | C11H6FN3O2
